US08623859B2
5-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{4-[(3-methoxypiperidin-1-yl)methyl]benzyl}-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure BH using 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid (40 mg, 0.105 mmol), EDCI (28 mg, 0.158 mmol), HOBt (21 mg, 0.16 mmol), DIPEA (0.04 mL, 0.21 mmol), 1-{4-[(3-methoxypiperidin-1-yl)methyl]phenyl}-N-methylmethanamine dihydrochloride (36 mg, 0.13 mmol) and DCM (10 mL).

reactant | 5-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)furan-3-carboxylic acid | 0.105 mmol, 40 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)O | C18H21NO6S
reactant | EDCI | 0.158 mmol, 28 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.16 mmol, 21 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.21 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{4-[(3-methoxypiperidin-1-yl)methyl]phenyl}-N-methylmethanamine dihydrochloride | 0.13 mmol, 36 mg | Cl.Cl.COC1CN(CCC1)CC1=CC=C(C=C1)CNC
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-{4-[(3-methoxypiperidin-1-yl)methyl]benzyl}-N-methylfuran-3-carboxamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(C=C1)CN1CC(CCC1)OC | C33H43N3O6S
